US06897225B1
4-Acetyl-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione
To a solution of 6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione (0.062 g) in THF (2.5 mL) and DIEA (0.030 mL) was added acetyl chloride (0.015 mL). After 30 minutes, the reaction mixture was diluted with EtOAc and the solution washed with NaHCO3, and brine, dried (Na2SO4), filtered, and concentrated. Purification by chromatography (Silica gel: CH2Cl2/MeOH: 99/1, Chromatotron) afforded the titled compound (0.046 g,). MS (m/z) 510 (MH+). mp 89.6° C.

reactant | 6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione | 0.062 g | BrC1=CC=C(CC23CNCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C19H16BrCl2N3O2
reactant | acetyl chloride | 0.015 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | DIEA | 0.030 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Acetyl-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione | 0.046 g | C(C)(=O)N1CCN2C(N(C(C2(C1)CC1=CC=C(C=C1)Br)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C21H18BrCl2N3O3
